US05763458
1-(4-Amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one (0.2 g, 0.67 mmol), prepared as in Example 3 or Example 7, triethylamine (0.2 mL), and 1-bromopropane (0.065 mL, 0.75 mmol) were dissolved in DMF (4 mL) and the solution was stirred at room temperature for 12 hours. The solution was partitioned between aqueous ammonium hydroxide and ethyl acetate. The ethyl acetate layer was separated, washed with water and then brine, dried over sodium sulfate, and evaporated. Purification of the residue by silica gel chromatography (10% CH3OH--CH2Cl2) gave 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(1-(prop-1-yl) piperidin-4-yl]propan-1-one which was then dissolved in ethanolic hydrochloric acid. Crystallization with ether gave 1-(4-amino-5-chloro-2-methoxyphenyl)-3-[1-(prop-1-yl) piperidin-4-yl]propan-1-one hydrochloride (0.15 g, 0.4 mmol), m.p. 200°-201° C.

reactant | 1-(4-Amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one | 0.67 mmol, 0.2 g | NC1=CC(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC | C15H21ClN2O2
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-bromopropane | 0.75 mmol, 0.065 mL | BrCCC | C3H7Br
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(1-(prop-1-yl) piperidin-4-yl]propan-1-one | NC1=CC(=C(C=C1Cl)C(CCC1CCN(CC1)CCC)=O)OC | C18H27ClN2O2
